US05166188
4-(4-Nitro-1H-imidazol-1-yl)benzaldehyde
A suspension of 18.6 g of 4-fluorobenzaldehyde and 18.6 g of 4-nitroimidazole in 70 ml of dimethylformamide was dropwise added to a suspension of 6.6 g of sodium hydride (60% suspension in mineral oil) in 150 ml of dimethylformamide at a room temperature under stirring. The obtained mixture was stirred at 90° C. for about 5 hours, cooled and poured into ice-water to precipitate a solid. This solid was recovered by filtration, washed with water and heated together with ethanol. The mixture was cooled and filtered. The obtained solid was washed with ethanol to obtain 18 g of the title compound as a white powder (yield: 55%).

reactant | 4-fluorobenzaldehyde | 18.6 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 4-nitroimidazole | 18.6 g | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | sodium hydride | 6.6 g | [H-].[Na+]
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 4-(4-Nitro-1H-imidazol-1-yl)benzaldehyde | 18 g, yield: 55% | [N+](=O)([O-])C=1N=CN(C1)C1=CC=C(C=O)C=C1 | C10H7N3O3
